2-Wheel Robot

* The robot ngspice netlist was auto-generated on 22/08/2017 20:05
* with ngspice.ulp V1.3 for Eagle 6.5.0 - 7.7 by Uros Platise, http://www.isotel.eu/mixedsim
*


* List of Ignored and Modified Components:
*


.model INT int(in_offset=0 gain=1 out_lower_limit=-1e12 out_upper_limit=1e12 limit_range=1e-6 out_ic=0)
A1 fs ds INT

.model SUM3 summer(in_offset=[0 0 0] in_gain=[1 1 1] out_gain=1 out_offset=0)
A2 [f2 fts f1] fs SUM3

.model LIMITER1 limit(in_offset=0 gain=10 out_lower_limit=-1 out_upper_limit=1 limit_range=1e-6 fraction=false)
A3 v1 ft1 LIMITER1

.model SUM_FT summer(in_offset=[0 0] in_gain=[1 1] out_gain=-1 out_offset=0)
A4 [ft2 ft1] fts SUM_FT

.model LIMITER2 limit(in_offset=0 gain=10 out_lower_limit=-1 out_upper_limit=1 limit_range=1e-6 fraction=false)
A5 v2 ft2 LIMITER2
A6 [ds dpr] v2 SUM_MT 

.model SUM summer(in_offset=[0 0] in_gain=[1 1] out_gain=1 out_offset=0)
A7 [ds dpr] v1 SUM

.model SUM_MT summer(in_offset=[0 0] in_gain=[1 -1] out_gain=1 out_offset=0)
A8 [ft2 ft1] ftp SUM_MT

.model SUM_P summer(in_offset=[0 0 0] in_gain=[-1 1 1] out_gain=1 out_offset=0)
A9 [f2 f1 ftp] fp SUM_P
A10 fp dp INT

.model gain_r gain(in_offset=0 gain=0.1_r out_offset=0)
A11 dp dpr GAIN_R
A12 2 x INT
A13 3 y INT
A14 dp p INT
A15 ds s INT
B1 2 0 V=V(DS)*cos(V(P))
B2 3 0 V=V(DS)*sin(V(P))
V3 f1 0 PULSE(0 5 1m 1ms 1ms 1s)
V4 f2 0 PULSE(0 5 0.5 1ms 1ms 2s)

* Auto Generated Sources

* Spice Control Directives from Sheet
.control
set hcopydevtype=postscript
set hcopyfont=Arimo
set hcopypscolor=1
set color0=rgb:f/f/f
set color1=rgb:0/0/0
tran 4ms 10s
wrdata robot.ssv x y p
.endc
.end
