Test Bench for Motor Force Controller by Uros Platise

* The motor_tb ngspice netlist was auto-generated on 02/04/2018 15:06
* with ngspice.ulp V1.3 for Eagle 6.5.0 - 7.7 by Uros Platise, http://www.isotel.eu/mixedsim
*



.model INT int(in_offset=0 gain=1 out_lower_limit=-1e12 out_upper_limit=1e12 limit_range=1e-6 out_ic=0)
A1 w phi INT

.include dcmotor.mod

* PAD: A B W 
XM1 a b w dcmotor
R1 vcc sup 0.1 
V1 sup 0 DC(0) PULSE(0 5 0 10us 10us 1)

* Processing module MF1 from sheet 1: 
.include motorforce.mod
Xmf1 a b vcc 0 MOTORFORCE

* Auto Generated Sources

* Spice Control Directives from Sheet
.control
tran 100ns 10ms uic
rusage trantime traniter
.endc
.end
