PRS Sine Generator by Uros Platise

* The prssine ngspice netlist was auto-generated on 06/04/2018 07:17
* with ngspice.ulp V1.3 for Eagle 6.5.0 - 7.7 by Uros Platise, http://www.isotel.eu/mixedsim
*


* List of Ignored and Modified Components:
*
* - C1: SPICE_VALUE = {cval(fc,lval)}
* - L1: SPICE_VALUE = {lval}
* - R1: SPICE_VALUE = {2*zeta/sqrt(cval(fc,lval)/lval)}

* Spice Initialization Directives from Sheet
.func cval(fc,lval) {1/(lval*(6.28*fc)^2)}
.param  lval =10mH
.param  zeta =1.05
.param  fc =1e3
C1 lpfout 0 {cval(fc,lval)}
L1 1 lpfout {lval}
R1 lpfin 1 {2*zeta/sqrt(cval(fc,lval)/lval)}

* Auto Generated Sources

* Spice Control Directives from Sheet
* Spice Initialization Directives from Sheet
.include yosys/prim_cells_ngspice.mod

.model DAC_BUF dac_bridge(out_low=0V out_high=1V out_undef=0.5V input_load=1pF t_rise=1ns t_fall=1ns)
A1 [out][lpfin] DAC_BUF

.model OSC d_osc(cntl_array=[0 5] freq_array=[1MEG 1MEG] duty_cycle=0.5 init_phase=0 rise_delay=1ns fall_delay=1ns)
A2 0 clk OSC

.model DFF d_dff (clk_delay=1ns set_delay=1ns reset_delay=1ns data_load=1pF clk_load=1pF set_load=1pF reset_load=1pF rise_delay=1ns fall_delay=1ns ic=0)
A3 6 clk null null null rst DFF

.model PUP d_pullup( load=1pF )
A4 6 PUP

.model DSOURCE8 d_source(input_file="../sine.ssv" input_load=1e-12)
A5 [13 12 11 10 9 8 7 5] DSOURCE8

* Processing module PRSGEN8 from sheet 2: 
.include ../prsgen8_ngspice.mod
Xprsgen8 clk rst 5 7 8 9 10 11 12 13 out PRSGEN8

* Auto Generated Sources

* Spice Control Directives from Sheet
.tran 50ns 50ms uic
.end
